### PR TITLE
[Merged by Bors] - feat(Filter): replace coframe instance with better defeqs

### PR DESCRIPTION
**Pull request by plp127**
Replace the `Filter.instCoframe` with explicitly given operations. Prove `Filter.mem_sdiff` and `Filter.hnot_def`.

The definitions I chose here are somewhat arbitrary, but I think they're better than what we had before. I chose these specific definitions based on a conversation with AI, but I did not use AI to help me write this PR.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Filter/Finite.lean [hunk 1]
```diff
@@ -185,22 +185,34 @@ theorem mem_iInf_finite' {f : ι → Filter α} (s) :
...
-      obtain ⟨u, hu⟩ := h₂
-      rw [← Finset.inf_eq_iInf] at hu
-      suffices ⨅ i : s, f ⊔ ↑i ≤ f ⊔ u.inf fun i => ↑i from this ⟨h₁, hu⟩
-      refine Finset.induction_on u (le_sup_of_le_right le_top) ?_
-      rintro ⟨i⟩ u _ ih
-      rw [Finset.inf_insert, sup_inf_left]
-      exact le_inf (iInf_le _ _) ih }
-
-instance instCoframe : Coframe (Filter α) := .ofMinimalAxioms coframeMinimalAxioms
+instance instCoframe : Coframe (Filter α) where
```
Comment (plp127) [inline Mathlib/Order/Filter/Finite.lean]: Now that I think about it, why was this instance in the `Order/Filter/Finite` file? It doesn't seem to have anything to do with finiteness at all!

File: Mathlib/Order/Filter/Finite.lean [hunk 2]
```diff
@@ -185,22 +185,35 @@ theorem mem_iInf_finite' {f : ι → Filter α} (s) :
...
+    constructor
+    · intro h x hxs t ht
+      exact (h (mem_of_superset ht subset_union_right) subset_union_left x).resolve_left hxs
+    · intro h t ht hst x
+      by_cases hx : x ∈ s
+      · exact hst hx
+      · exact h hx t ht
+
+theorem mem_sdiff : s ∈ f \ g ↔ ∀ t ∈ g, s ⊆ t → t ∈ f := .rfl
+protected theorem hnot_def : ￢f = 𝓟 f.kerᶜ := rfl
```
Comment (Vierkantor) [inline Mathlib/Order/Filter/Finite.lean]:
```suggestion
theorem mem_sdiff : s ∈ f \ g ↔ ∀ t ∈ g, s ⊆ t → t ∈ f := .rfl

protected theorem hnot_def : ￢f = 𝓟 f.kerᶜ := rfl
```

File: Mathlib/Order/Filter/Finite.lean (hunk 1 above)
Comment (Vierkantor) [reply Mathlib/Order/Filter/Finite.lean]: IIRC, this was because of the `Finset.induction_on` in the old proof. Please upstream this now it's possible :)

File: Mathlib/Order/Filter/Finite.lean (hunk 2 above)
Comment (Vierkantor) [reply Mathlib/Order/Filter/Finite.lean]: I was considering whether `mem_sdiff` should be protected, but given that `Finset.mem_sdiff` is not protected either, we should be good.

**Review by Vierkantor — APPROVED** [review]
This looks good to me, but someone who actually uses filters should verify.

maintainer delegate

File: Mathlib/Order/Filter/Basic.lean [hunk 3]
```diff
@@ -466,15 +471,22 @@ theorem sup_join {f₁ f₂ : Filter (Filter α)} : join f₁ ⊔ join f₂ = jo
...
+instance instCoframe : Coframe (Filter α) where
+  sdiff_le_iff a b c :=
+    ⟨fun h s hs ↦ h hs.right hs.left (subset_refl s),
+      fun h s hsc t htb hst ↦ h ⟨htb, mem_of_superset hsc hst⟩⟩
+  top_sdiff f := by
+    ext s
+    simp only [mem_sdiff_iff_union, Filter.hnot_def, mem_principal,
+      compl_subset_iff_union, mem_top_iff_forall, eq_univ_iff_forall]
+    apply not_iff_not.1
+    simp only [ker, mem_union, not_forall, not_or, mem_sInter, Filter.mem_sets, not_forall]
```
Comment (ocfnash) [inline Mathlib/Order/Filter/Basic.lean]:
```suggestion
    simp only [mem_sdiff_iff_union, Filter.hnot_def, mem_principal, compl_subset_iff_union,
      mem_top_iff_forall, eq_univ_iff_forall, ker, mem_union, mem_sInter, Filter.mem_sets]
```

**Review by ocfnash — APPROVED** [review]
Thanks!

bors d+
